US05192783
C. n-Butyl-2-(o-phenoxyphenyl)hexanoate
Into a 500-ml round bottom flask are placed 77.7 g (1 mole) of n-butanol, 36.5 g (0.14 mole) of δ-n-butyl o-phenoxybenzyl cyanide and 14.4 g (0.45 mole) of conc. sulfuric acid. The mixture is heated to reflux overnight. It is then cooled, poured into water and extracted with toluene. The combined extracts are washed with water and dried over MgSO4. Solvent is evaporated to give 50 g of product.

reactant | n-butanol | 1 mole, 77.7 g | C(CCC)O | C4H10O
reactant | δ-n-butyl o-phenoxybenzyl cyanide | 0.14 mole, 36.5 g | CCCCC(C1=C(C=CC=C1)OC1=CC=CC=C1)C#N | C18H19NO
reactant | sulfuric acid | 0.45 mole, 14.4 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | n-Butyl-2-(o-phenoxyphenyl)hexanoate | 50 g | C(CCC)OC(C(CCCC)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C22H28O3
